* source _FIG2_52_MSD
C_CFT         N14976 VINM  1p  TC=0,0 
C_CIB         N14968 VINP  1p  TC=0,0 
C_CFB         N14972 VINP  1p  TC=0,0 
V_Vinm         VINSM 0  
+SIN .5 -.1 2.5Meg 0 0 0
V_Vphi1         PHI1 0  
+PULSE 0 1 0 200p 200p 4n 10n
C_CLT         VOUTP 0  10p  TC=0,0 
V_V1         N14012 0 DC 750m  
V_Vinp         VINSP 0  
+SIN .5 .1 2.5Meg 0 0 0
C_CLB         0 VOUTM  10p  TC=0,0 
V_V2         N14020 0 DC 250m  
R_U1_RT         U1_N02287 VOPP  1 TC=0,0 
G_U1_G1         VOPP U1_N02275 VINP VINM 100Meg
R_U1_RB         VOPM U1_N02287  1 TC=0,0 
G_U1_G2         U1_N02275 VOPM VINP VINM 100Meg
R_U1_R3         U1_N02287 U1_N02291  .0001 TC=0,0 
G_U1_G3         U1_N02291 0 VCM U1_N02461 100Meg
R_U1_R4         U1_N02287 U1_N02461  .0001 TC=0,0 
R_U1_R5         U1_N02275 U1_N02287  .0001 TC=0,0 
V_Vphi2         PHI2 0  
+PULSE 0 1 0 200p 200p 4n 10n
V_VDD         VDD 0 DC 1  
C_CIT         N15302 VINM  1p  TC=0,0 
V_VCM         VCM 0 DC .5  
V_Vphi3         PHI3 0  
+PULSE 0 1 5n 200p 200p 4n 10n
R_U8_R1         0 U8_VTRIP  100Meg TC=0,0 
R_U8_R2         U8_VTRIP VDD  100Meg TC=0,0 
X_U8_S1    PHI3 U8_VTRIP N14976 VOPP switch_1_U8_S1 
R_U9_R1         0 U9_VTRIP  100Meg TC=0,0 
R_U9_R2         U9_VTRIP VDD  100Meg TC=0,0 
X_U9_S1    PHI3 U9_VTRIP VOPP VOUTP switch_1_U9_S1 
R_U10_R1         0 U10_VTRIP  100Meg TC=0,0 
R_U10_R2         U10_VTRIP VDD  100Meg TC=0,0 
X_U10_S1    PHI3 U10_VTRIP VOPM VOUTM switch_1_U10_S1 
R_U11_R1         0 U11_VTRIP  100Meg TC=0,0 
R_U11_R2         U11_VTRIP VDD  100Meg TC=0,0 
X_U11_S1    PHI3 U11_VTRIP N14972 VOPM switch_1_U11_S1 
R_U12_R1         0 U12_VTRIP  100Meg TC=0,0 
R_U12_R2         U12_VTRIP VDD  100Meg TC=0,0 
X_U12_S1    PHI1 U12_VTRIP VINP VOPM switch_1_U12_S1 
R_U13_R1         0 U13_VTRIP  100Meg TC=0,0 
R_U13_R2         U13_VTRIP VDD  100Meg TC=0,0 
X_U13_S1    PHI2 U13_VTRIP VINSP N14976 switch_1_U13_S1 
R_U14_R1         0 U14_VTRIP  100Meg TC=0,0 
R_U14_R2         U14_VTRIP VDD  100Meg TC=0,0 
X_U14_S1    PHI2 U14_VTRIP VINSP N15302 switch_1_U14_S1 
R_U15_R1         0 U15_VTRIP  100Meg TC=0,0 
R_U15_R2         U15_VTRIP VDD  100Meg TC=0,0 
X_U15_S1    PHI3 U15_VTRIP N14012 N15302 switch_1_U15_S1 
R_U16_R1         0 U16_VTRIP  100Meg TC=0,0 
R_U16_R2         U16_VTRIP VDD  100Meg TC=0,0 
X_U16_S1    PHI3 U16_VTRIP N14020 N14968 switch_1_U16_S1 
R_U17_R1         0 U17_VTRIP  100Meg TC=0,0 
R_U17_R2         U17_VTRIP VDD  100Meg TC=0,0 
X_U17_S1    PHI2 U17_VTRIP VINSM N14968 switch_1_U17_S1 
R_U18_R1         0 U18_VTRIP  100Meg TC=0,0 
R_U18_R2         U18_VTRIP VDD  100Meg TC=0,0 
X_U18_S1    PHI2 U18_VTRIP VINSM N14972 switch_1_U18_S1 
R_U19_R1         0 U19_VTRIP  100Meg TC=0,0 
R_U19_R2         U19_VTRIP VDD  100Meg TC=0,0 
X_U19_S1    PHI1 U19_VTRIP VINM VOPP switch_1_U19_S1 

.subckt switch_1_U8_S1 1 2 3 4  
S_U8_S1         3 4 1 2 _U8_S1
RS_U8_S1         1 2 1G
.MODEL         _U8_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U8_S1

.subckt switch_1_U9_S1 1 2 3 4  
S_U9_S1         3 4 1 2 _U9_S1
RS_U9_S1         1 2 1G
.MODEL         _U9_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U9_S1

.subckt switch_1_U10_S1 1 2 3 4  
S_U10_S1         3 4 1 2 _U10_S1
RS_U10_S1         1 2 1G
.MODEL         _U10_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U10_S1

.subckt switch_1_U11_S1 1 2 3 4  
S_U11_S1         3 4 1 2 _U11_S1
RS_U11_S1         1 2 1G
.MODEL         _U11_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U11_S1

.subckt switch_1_U12_S1 1 2 3 4  
S_U12_S1         3 4 1 2 _U12_S1
RS_U12_S1         1 2 1G
.MODEL         _U12_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U12_S1

.subckt switch_1_U13_S1 1 2 3 4  
S_U13_S1         3 4 1 2 _U13_S1
RS_U13_S1         1 2 1G
.MODEL         _U13_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U13_S1

.subckt switch_1_U14_S1 1 2 3 4  
S_U14_S1         3 4 1 2 _U14_S1
RS_U14_S1         1 2 1G
.MODEL         _U14_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U14_S1

.subckt switch_1_U15_S1 1 2 3 4  
S_U15_S1         3 4 1 2 _U15_S1
RS_U15_S1         1 2 1G
.MODEL         _U15_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U15_S1

.subckt switch_1_U16_S1 1 2 3 4  
S_U16_S1         3 4 1 2 _U16_S1
RS_U16_S1         1 2 1G
.MODEL         _U16_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U16_S1

.subckt switch_1_U17_S1 1 2 3 4  
S_U17_S1         3 4 1 2 _U17_S1
RS_U17_S1         1 2 1G
.MODEL         _U17_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U17_S1

.subckt switch_1_U18_S1 1 2 3 4  
S_U18_S1         3 4 1 2 _U18_S1
RS_U18_S1         1 2 1G
.MODEL         _U18_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U18_S1

.subckt switch_1_U19_S1 1 2 3 4  
S_U19_S1         3 4 1 2 _U19_S1
RS_U19_S1         1 2 1G
.MODEL         _U19_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switch_1_U19_S1
