* source _FIG3_36_MSD
R_R1         VIN N00101  1.414k TC=0,0 
L_L1         N00101 VOUT  100uH  
C_C1         VOUT 0  100p   
V_V1         VIN 0 DC 0Vdc AC 1Vac 
