* source _FIG3_41_MSD
V_V1         N04778 0 DC 0Vdc AC 1Vac 
L_L1         VOUT 0  100u  
R_R1         N04778 VOUT  20k TC=0,0 
C_C1         VOUT 0  100p   
