* source _FIG3_46_MSD
V_Vinp         VINP 0 DC .5Vdc AC .5Vac 
R_RIT1         VINP N06247  100G TC=0,0 
R_RIB2         VOUTP1 N06491  20k TC=0,0 
C_CIT2         VOUTM1 N06495  1e-18  TC=0,0 
R_RIB1         VINM N06233  100G TC=0,0 
V_Vinm         VINM 0 DC .5Vdc AC -.5Vac 
V_VCM         VCM 0 DC .5  
C_CIB2         VOUTP1 N06491  1e-18  TC=0,0 
C_CIT1         VINP N06247  4p  TC=0,0 
R_RFB1         VOUTP1 N06233  5k TC=0,0 
C_CFT1         N06247 VOUTM1  20p  TC=0,0 
R_RFB2         N06233 VOUTP  1.25k TC=0,0 
R_RF1         N06247 VOUTP1  5.25k  
C_CIB1         VINM N06233  4p  TC=0,0 
C_CFT2         N06495 VOUTP  20p  TC=0,0 
C_CFB1         N06233 VOUTP1  20p  TC=0,0 
R_RF2         N06233 VOUTM1  5.25k  
C_CFB2         N06491 VOUTM  20p  TC=0,0 
R_RFT2         N06247 VOUTM  1.25k TC=0,0 
R_RFT1         VOUTM1 N06247  5k TC=0,0 
R_RIT2         VOUTM1 N06495  20k TC=0,0 
R_U1_RT         U1_N02287 VOUTM1  1 TC=0,0 
G_U1_G1         VOUTM1 U1_N02275 N06233 N06247 100Meg
R_U1_RB         VOUTP1 U1_N02287  1 TC=0,0 
G_U1_G2         U1_N02275 VOUTP1 N06233 N06247 100Meg
R_U1_R3         U1_N02287 U1_N02291  .0001 TC=0,0 
G_U1_G3         U1_N02291 0 VCM U1_N02461 100Meg
R_U1_R4         U1_N02287 U1_N02461  .0001 TC=0,0 
R_U1_R5         U1_N02275 U1_N02287  .0001 TC=0,0 
R_U2_RT         U2_N02287 VOUTP  1 TC=0,0 
G_U2_G1         VOUTP U2_N02275 N06491 N06495 100Meg
R_U2_RB         VOUTM U2_N02287  1 TC=0,0 
G_U2_G2         U2_N02275 VOUTM N06491 N06495 100Meg
R_U2_R3         U2_N02287 U2_N02291  .0001 TC=0,0 
G_U2_G3         U2_N02291 0 VCM U2_N02461 100Meg
R_U2_R4         U2_N02287 U2_N02461  .0001 TC=0,0 
R_U2_R5         U2_N02275 U2_N02287  .0001 TC=0,0 
